US04659362
An aqueous solution of 2% sodium hydroxide (15 ml) was added to a stirred suspension of 2,4,6-trimethoxypyrimidine-5-carboxaldehyde (8 g) in acetone (15 ml) and water (15 ml). The mixture was stirred and refluxed for 4 hours, a precipitate slowly forming during this period. The suspension was diluted with water (100 ml) and extracted with chloroform (2×100 ml). The organic layer was washed with water, dried over magnesium sulphate and the solvent was removed by evaporation under reduced pressure to give 1-(2,4,6-trimethoxy-5-pyrimidyl)but-1-en-3-one as a pale yellow solid (8.0 g), mp 98°-99° C.

reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
reactant | 2,4,6-trimethoxypyrimidine-5-carboxaldehyde | 8 g | COC1=NC(=C(C(=N1)OC)C=O)OC | C8H10N2O4
reactant | acetone | 15 ml | CC(=O)C | C3H6O
solvent | water | 15 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 1-(2,4,6-trimethoxy-5-pyrimidyl)but-1-en-3-one | 8.0 g | COC1=NC(=C(C(=N1)OC)C=CC(C)=O)OC | C11H14N2O4
